US07767665B2
2-(6-Propylsulfinyl-2-pyridyl)-4H-1,3-benzothiazine-4-one
A solution of 3-chloroperbenzoic acid (ca. 50%, 0.17 g, 0.49 mmol) in ethyl acetate (20 ml) was added dropwise to a solution of 2-(6-propylthio-2-pyridyl)-4H-1,3-benzothiazine-4-one (0.15 g, 0.48 mmol), which was obtained in Example 59, in ethyl acetate (50 ml) with stirring. The reaction mixture was stirred at room temperature for 18 hrs, washed with saturated aqueous sodium hydrogen carbonate solution (50 ml×2) and saturated brine, dried (MgSO4) and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give the titled compound (0.12 g, 76%) as crystals.

reactant | 3-chloroperbenzoic acid | 0.49 mmol, 0.17 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(6-propylthio-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.48 mmol, 0.15 g | C(CC)SC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H14N2OS2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(6-Propylsulfinyl-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.12 g, 76% | C(CC)S(=O)C1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H14N2O2S2
